US09056859B2
Step C: 5-Methyl-6-(prop-2-en-1-yl)-3,4-dihydro-1H-isochromen-1-one
To a flask charged with 6-Bromo-5-methyl-3,4-dihydro-1H-isochromen-1-one (100 mg, 0.42 mmol), Allyl Tri-n-butyltin (165 mg, 0.50 mmol), Palladium Tetrakis (48 mg, 0.041 mmol), and Lithium Chloride (35 mg, 0.83 mmol) was added Toluene (5 ml). The mixture was sealed with a condenser and purged three times with N2. The mixture was then heated to reflux for 6 hours. TLC and LC showed complete reaction. The reaction was diluted with EtOAc (50 mL), washed with brine, dried over sodium sulfate, adsorbed onto silica, and purified by MPLC (Hex/EtOAc gradient) to furnish the product. LC-MS (IE, m/z): 203 [M+1]+.

reactant | 6-Bromo-5-methyl-3,4-dihydro-1H-isochromen-1-one | 0.42 mmol, 100 mg | BrC=1C(=C2CCOC(C2=CC1)=O)C | C10H9BrO2
reactant | Allyl Tri-n-butyltin | 0.50 mmol, 165 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | Lithium Chloride | 0.83 mmol, 35 mg | [Cl-].[Li+]
reactant | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium Tetrakis | 0.041 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Methyl-6-(prop-2-en-1-yl)-3,4-dihydro-1H-isochromen-1-one | CC1=C2CCOC(C2=CC=C1CC=C)=O | C13H14O2
